US04374843
A solution of 688 mg (2.0 mmol) of 2-bromo-1-(2-guanidino-4-thiazolyl)ethanone hydrobromide and 183 mg of thiourea in 5 ml of dimethylformamide was stirred at room temperature. After a short time, a solid began to precipitate. After a total of four hours, the solid was collected by filtration, washed with ethyl acetate, and dried, thereby affording 595 mg (74%) of 2-guanidino-4-(2-amino-4-thiazolyl)thiazole dihydrobromide as a white powder; mp 320° (dec); mass spectrum parent of 240. This material could be converted to its free base by triturating with saturated sodium bicarbonate solution, stirring for 15 minutes, filtering the solid, and drying it under vacuum. In this way 2-guanidino-4-(2-amino-4-thiazolyl)thiazole was obtained as a crystalline solid, mp 274°. Calcd. for C7H8N6S2 : C, 34.99; H, 3.36; N, 34.97; found: C, 34.94; H, 3.41; N, 34.80.

reactant | 2-bromo-1-(2-guanidino-4-thiazolyl)ethanone hydrobromide | 2.0 mmol, 688 mg | Br.BrCC(=O)C=1N=C(SC1)NC(=N)N
reactant | thiourea | 183 mg | NC(=S)N | CH4N2S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-guanidino-4-(2-amino-4-thiazolyl)thiazole dihydrobromide | 595 mg, 74% | Br.Br.N(C(=N)N)C=1SC=C(N1)C=1N=C(SC1)N | InChI=1S/C7H8N6S2.2BrH/c8-5(9)13-7-12-4(2-15-7)3-1-14-6(10)11-3;;/h1-2H,(H2,10,11)(H4,8,9,12,13);2*1H
